US05811389
A solution of 1.92 g (1.3 eq.) of tert-butyldimethylsilyl chloride in 10 ml of N,N-dimethylformamide was added dropwise while cooling with ice to a mixture of 3.23 g (9.80 mmol) of 3,7-diethoxy-10-ethyl-10H-dibenzo[b,e][1,4]oxazine-4-methanol and 1.47 g (2.2 eq.) of imidazole in 30 ml of N,N-dimethylformamide. The reaction mixture was stirred at 0° for 30 minutes, brought slowly to room temperature, stirred for 1 hour and then poured into 100 ml of water, 50 ml of diethyl ether and 50 ml of hexane. The organic phase was separated, extracted twice with water, dried over magnesium sulphate and concentrated. The residue was chromatographed on 250 g of silica gel with diethyl ether/hexane (1:10), whereupon, after drying in a high vacuum, 4.30 g (98.9%) of 10-methyl-3,7-diethoxyl-4-[(tert-butyl-dimethylsilyl)oxy]methyl!-10H-dibenzo[b,e][1,4]oxazine were obtained as a colourless solid of m.p. 77.5°-78.5°.

reactant | tert-butyldimethylsilyl chloride | 1.92 g, 1.3 eq. | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | 3,7-diethoxy-10-ethyl-10H-dibenzo[b,e][1,4]oxazine-4-methanol | 9.80 mmol, 3.23 g | C(C)OC=1C=CC2=C(OC3=C(N2CC)C=CC(=C3)OCC)C1CO | C19H23NO4
reactant | imidazole | 1.47 g, 2.2 eq. | N1C=NC=C1 | C3H4N2
reactant | water | 100 ml | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | hexane | 50 ml | CCCCCC | C6H14
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | 10H-dibenzo[b,e][1,4]oxazine | C1=CC=CC=2OC3=C(NC21)C=CC=C3 | C12H9NO
